US05559111
b) 4-Bromo-2-(3-methoxypropyloxy)-phenol
6.9 g of tetrabutylammonium tribromide are added in portions, at room temperature, to a solution of 2.6 g of 2-(3-methoxypropyloxy)-phenol in 60 ml of dichloromethane and 40 ml of methanol, and the mixture is then stirred for 30 minutes. The reaction mixture is concentrated by evaporation and the residue is partitioned between diethyl ether and water. The combined organic phases are dried over magnesium sulfate and concentrated by evaporation, and the residue is purified by FC (700 g of silica gel, dichloromethane/diethyl ether=98:2), yielding the title compound: Rf (dichloromethane/diethyl ether=97:3)=0.50; HPLC Rt =14.32 minutes; FAB-MS (M+H)+ =262.

reactant | tetrabutylammonium tribromide | 6.9 g | [Br-].[Br-].[Br-].C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 2-(3-methoxypropyloxy)-phenol | 2.6 g | COCCCOC1=C(C=CC=C1)O | C10H14O3
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | methanol | 40 ml | CO | CH4O
product | 4-Bromo-2-(3-methoxypropyloxy)-phenol | BrC1=CC(=C(C=C1)O)OCCCOC | C10H13BrO3
